US05372746
A mixture of 1 g of 1-(trans-4-propylcyclohexyl)-3,5-difluoro-4-iodobenzene, 0.294 g of 2-methyl-3-butyn-2-ol, 0.077 g of bis(triphenylphosphine)palladium dichloride, 0.842 g of triethylamine, 0.084 g of triphenylphosphine and 10 ml of tetrahydrofuran was held under reflux for 48 hrs. Then, 0.326 ml of 1-bromo-3,4-difluorobenzene, 0.493 g of powdered potassium hydroxide and 0.205 g of tetrabutylammonium hydrogen sulphate were added in this sequence and the mixture was left to react under reflux for 16 hrs. Thereupon, the reaction mixture was cooled, poured into 25 ml of 1N sulphuric acid and extracted with ether. The ether phase was washed several times with sat. sodium chloride solution, dried over magnesium sulphate and evaporated on a rotary evaporator. Chromatography of the residue on 170 g of silica gel with hexane and subsequent crystallization from methanol gave 0.53 g of 4-(trans-4-propylcyclohexyl)-2,6,3',4'-tetrafluorotolane. M.p. (C/N) 71.3° C., cl.p. (N/I) 126° C.

reactant | 1-(trans-4-propylcyclohexyl)-3,5-difluoro-4-iodobenzene | 1 g | C(CC)[C@@H]1CC[C@H](CC1)C1=CC(=C(C(=C1)F)I)F | C15H19F2I
reactant | 2-methyl-3-butyn-2-ol | 0.294 g | CC(C)(C#C)O | C5H8O
reactant | triphenylphosphine | 0.084 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-bromo-3,4-difluorobenzene | 0.326 ml | BrC1=CC(=C(C=C1)F)F | C6H3BrF2
reactant | potassium hydroxide | 0.493 g | [OH-].[K+]
reactant | sulphuric acid | 1N, 25 ml | S(O)(O)(=O)=O | H2O4S
catalyst | tetrabutylammonium hydrogen sulphate | 0.205 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | bis(triphenylphosphine)palladium dichloride | 0.077 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 0.842 g | C(C)N(CC)CC | C6H15N
product | 4-(trans-4-propylcyclohexyl)-2,6,3',4'-tetrafluorotolane | 0.53 g | C(CC)[C@@H]1CC[C@H](CC1)C1=CC(=C(C(=C1)F)C#CC1=CC(=C(C=C1)F)F)F | C23H22F4
